US06518423B1
8-Chloromethyl-10H-pyrazino[2,3-b][1,4]benzothiazine
6 g of 8-chloromethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine was dissolved in 50 ml of tetrahydrofuran and 20 ml of 6 N hydrochloric acid was added thereto at 0° C. After stirring at room temperature for 30 minutes, the reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The crystals precipitating in the course of the concentration were taken up by filtration and washed with diethyl ether to thereby give 4.8 g of the title compound as yellow crystals.

reactant | 8-chloromethyl-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 6 g | ClCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C13H12ClN3OS
reactant | hydrochloric acid | 6 N, 20 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 8-Chloromethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 4.8 g | ClCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H8ClN3S
